US06495546B1
To a cold (−78° C.) solution of 8-[N-tert-butoxycarbonyl-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester (5.90 g) in tetrahydrofuran (120 ml) was added dropwise a solution of diisobutylaluminum hydride in hexane (0.95M, 53.2 ml). The reaction mixture was warmed to room temperature over 4 hours, and then saturated sodium bicarbonate solution was added dropwise to the mixture. The resulting precipitate was filtered off and washed with ethyl acetate. The filtrate was extracted with ethyl acetate, and the organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (5:1) to afford N-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxy-carbonylamine (5.20 g).

reactant | 8-[N-tert-butoxycarbonyl-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester | 5.90 g | COC(=O)C=1C=CC2=C(CC(CCC2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C1 | C33H49NO6Si
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | hexane | 0.95M, 53.2 ml | CCCCCC | C6H14
product | N-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxy-carbonylamine | 5.20 g | OCC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C32H49NO5Si
